US07662832B2
7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-ol
The compound prepared in Example 847 was treated with a saturated sodium bicarbonate solution to obtain 7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-amine. Concentrated sulfuric acid (1 ml) and water (5 ml) were added to 7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-amine (50 mg, 0.13 mmol) and then sodium nitrite (43.1 mg, 0.63 mmol) was added thereto. The reaction mixture was stirred for 5 minutes at 100° C. under heating and then excess ammonia solution was added thereto. The reaction mixture was stirred for 2 minutes under heating at the same temperature and then filtered to discard insoluble matertals. A potassium hydroxide solution was added to the reaction mixture, which was then filtered to discard insoluble matertals. The reaction mixture was extracted with ethyl acetate. The organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure to give 28.4 mg of the titled compound as a pale yellow solid.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-amine | 0.13 mmol, 50 mg | C1N(CCC2=CC=CC=C12)C=1N=C(C=C2C1N(C(=C2C)C)CC2=CC(=CC=C2)F)N | C25H25FN4
reactant | sodium nitrite | 0.63 mmol, 43.1 mg | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | water | 5 ml | O | H2O
product | 7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-ol | 28.4 mg | C1N(CCC2=CC=CC=C12)C=1N=C(C=C2C1N(C(=C2C)C)CC2=CC(=CC=C2)F)O | C25H24FN3O
